US04590082
PREPARATION OF (4'-t-BUTYLCYCLOHEXYL)-3-MERCAPTO-PROPIONATE
Into a 100 ml reaction flask equipped with reflux condenser, hot plate, spin bar and thermometer are placed 15.5 grams of 4-t-butylcyclohexanol; 0.5 grams paratoluene sulfonic acid and 15.5 grams of 3-mercapto-propionic acid.

reactant | 4-t-butylcyclohexanol | 15.5 grams | C(C)(C)(C)C1CCC(CC1)O | C10H20O
reactant | paratoluene sulfonic acid | 0.5 grams | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 3-mercapto-propionic acid | 15.5 grams | SCCC(=O)O | C3H6O2S
product | (4'-t-BUTYLCYCLOHEXYL)-3-MERCAPTO-PROPIONATE | C(C)(C)(C)C1CCC(CC1)OC(CCS)=O | C13H24O2S
